US05278170
(±)-7-Benzyl-7-aza-2-oxaspiro[4.4]nonan-1-one (D15)
A stirred solution of N-benzyl-N-(methoxymethyl)-N-[(trimethylsilyl)methyl]amine (D12, 160 g of 75% purity, assume 0.51 mole) and α-methylene-γ-butyrolactone (D14, 50 g, 0.51 mole) in dichloromethane (11 L) under nitrogen was cooled to 0° C. and then treated with a 1M solution of trifluoroacetic acid in dichloromethane (50ml, 0.05 mole), keeping the temperature below 5° C. The reaction mixture was allowed to warm to room temperature over 2 h, then washed with saturated sodium bicarbonate solution. The aqueous wash was extracted with dichloromethane and the organic solutions then combined, washed with brine, dried (Na2SO4) and concentrated in vacuo to leave a pale yellow oil. This was distilled in vacuo to give the title compound (D15) as a colourless oil (96 g, 81%) b.p. 160°-170° C. at 1 mmHg.

reactant | N-benzyl-N-(methoxymethyl)-N-[(trimethylsilyl)methyl]amine | 0.51 mole, 160 g | C(C1=CC=CC=C1)N(C[Si](C)(C)C)COC | C13H23NOSi
reactant | α-methylene-γ-butyrolactone | 0.51 mole, 50 g | C=C1C(=O)OCC1 | C5H6O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 11 L | ClCCl | CH2Cl2
solvent | dichloromethane | 0.05 mole, 50ml | ClCCl | CH2Cl2
product | (±)-7-Benzyl-7-aza-2-oxaspiro[4.4]nonan-1-one | C(C1=CC=CC=C1)N1CC2(CCOC2=O)CC1 | C14H17NO2
